US04081542
2,6-Dichloropyrazine (0.067 mole) is treated with a solution of sodium methoxide (0.067 mole) in 100 ml. dry methanol for 1 hour at 25°. The solvent is removed in vacuo and the residue is extracted with boiling hexane extract. 2-Chloro-6-methoxypyrazine crystallizes from the hexane extract. Another recrystallization from isopropanol at -70° gives 2-chloro-6-methoxypyrazine as an oil at room temperature.

reactant | 2,6-Dichloropyrazine | 0.067 mole | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | sodium methoxide | 0.067 mole | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-chloro-6-methoxypyrazine | ClC1=NC(=CN=C1)OC | C5H5ClN2O
